US08835420B2
Step C: 6-Bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine 5-carbonitrile
To a stirred mixture of 6-bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine 4-oxide (5.66 g, 15.41 mmol), Et3N (21.5 mL, 154 mmol) and DCE (40 mL) was added trimethylsilyl cyanide (10.33 mL, 77 mmol), and the reaction mixture was stirred at 76° C. for 16 hours. The dark reaction mixture was concentrated in vacuo and purified by silica gel chromatography (1% to 2% MeOH/DCM) to give the title compound as a white solid (3.48 g, 60%). 1H NMR (500 MHz, CDCl3) δ ppm 8.56 (d, 1H, J=1.0 Hz), 7.90 (d, 1H, J=4.0 Hz), 7.79 (d, 2H, J=8.0 Hz), 7.33 (d, 2H, J=8.0 Hz), 6.88 (d, 1H, J=4.0 Hz), 2.41 (s, 3H); ESI-MS m/z [M+H]+ calc'd for C15H10BrN3O2S, 376, 378; found 376, 378. Further elution of the silica gel column with 4% MeOH/DCM gave a second major fraction, which was the tosyl-deprotected product, which was collected to give impure 6-bromo-1H-pyrrolo[3,2-b]pyridine 5-carbonitrile as a brown solid (1.25 g, 36%). ESI-MS m/z [M+H]+ calc'd for C8H4BrN3, 222, 224; found 222, 224.

reactant | 6-bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine 4-oxide | 15.41 mmol, 5.66 g | BrC=1C=C2C(=[N+](C1)[O-])C=CN2S(=O)(=O)C2=CC=C(C)C=C2 | C14H11BrN2O3S
reactant | Et3N | 154 mmol, 21.5 mL | CCN(CC)CC | C6H15N
reactant | trimethylsilyl cyanide | 77 mmol, 10.33 mL | C[Si](C)(C)C#N | C4H9NSi
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
product | 6-Bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine 5-carbonitrile | 3.48 g, 60% | BrC=1C=C2C(=NC1C#N)C=CN2S(=O)(=O)C2=CC=C(C)C=C2 | C15H10BrN3O2S
